US03940422
In a similar manner except that 3-methoxy-4-acetoxyhydrocinnamoyl chloride was used in place of the 4-acetoxycinnamoyl chloride used in Example 1 for reaction with 3-aminobenzoic acid and the reaction product was hydrolyzed, 3-(3'-methoxy-4'-hydroxyhydrocinnamoyl amino)benzoic acid was obtained. After recrystallization from an aqueous alcohol, this product had a melting point of 218'220°C.

reactant | 3-methoxy-4-acetoxyhydrocinnamoyl chloride | COC=1C=C(CCC(=O)Cl)C=CC1OC(C)=O | C12H13ClO4
reactant | 3-aminobenzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 3-(3'-methoxy-4'-hydroxyhydrocinnamoyl amino)benzoic acid | COC=1C=C(CCC(=O)NC=2C=C(C(=O)O)C=CC2)C=CC1O | C17H17NO5
